US06353006B1
3-Phenyl-2-hydroxypropylamine was reacted with isobutyraldehyde according to Method B4c, Step 1 to give 2-isopropyl-5-benzyl-1,3-oxazolidine. The oxazolidine was reduced according to Method B4c, Step 2 to give N-isobutyl-3-phenyl-2-hydroxypropylamine. The propanolamine was reacted with SOCl2 followed by 2,3-dichlorophenyl isothiocyanate according to Method C2f to afford 2-(2,3-dichlorophenylimino)-3-isobutyl-5-benzyl-1,3-thiazolidine HCl salt.

reactant | 3-Phenyl-2-hydroxypropylamine | C1(=CC=CC=C1)CC(CN)O | C9H13NO
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | 2-isopropyl-5-benzyl-1,3-oxazolidine | C(C)(C)C1OC(CN1)CC1=CC=CC=C1 | C13H19NO
